US07012075B2
To an ice cold solution of 2,2,2-trichloroethyl 3-methylisothiazol-5-ylcarbamate (20.6 g, 71.1 mmol), methyl (2R)-2-hydroxy-4-methylpentanoate (15.9 g, 109 mmol) and triphenylphosphine (28.9 g, 110 mmol) in DMF (260 mL) was slowly added over 15 min diisopropylazodicarboxylate (21.7 mL, 110 mmol). The resulting brown solution was stirred at room temperature for 30 min and then heated to 60° C. for 18 h. The reaction mixture was allowed to cool to room temperature and it was partitioned between EtOAc and water. The organic layer was dried over Na2SO4 and concentrated in vacuo. The crude product was purified twice by flash chromatography using EtOAc in hexane to afford methyl N-(3-methylisothiazol-5-yl)-N-[(2,2,2-trichloroethoxy)carbonyl]-L-leucinate as a yellow syrup.

reactant | 2,2,2-trichloroethyl 3-methylisothiazol-5-ylcarbamate | 71.1 mmol, 20.6 g | CC1=NSC(=C1)NC(OCC(Cl)(Cl)Cl)=O | C7H7Cl3N2O2S
reactant | methyl (2R)-2-hydroxy-4-methylpentanoate | 109 mmol, 15.9 g | O[C@@H](C(=O)OC)CC(C)C | C7H14O3
reactant | triphenylphosphine | 110 mmol, 28.9 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropylazodicarboxylate | 110 mmol, 21.7 mL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | DMF | 260 mL | CN(C)C=O | C3H7NO
product | methyl N-(3-methylisothiazol-5-yl)-N-[(2,2,2-trichloroethoxy)carbonyl]-L-leucinate | CC1=NSC(=C1)N([C@@H](CC(C)C)C(=O)OC)C(=O)OCC(Cl)(Cl)Cl | C14H19Cl3N2O4S
